US05155108
Production of 6-[(2,2-diethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine hydrochloride
30% Hydrochloric acid-methanol solution (10 ml) was added to a solution of 6-[(2,2-diethyl-3-sulfamoyl-propyl) oxy]imidazo[1,2-b]pyridazine (3.0 g) in methanol (70 ml). The mixture was concentrated under reduced pressure to dryness. The residue was recrystallized from ethanol to obtain the above-identified compound (3.1 g).

reactant | Hydrochloric acid methanol | 10 ml | Cl.CO
reactant | 6-[(2,2-diethyl-3-sulfamoyl-propyl) oxy]imidazo[1,2-b]pyridazine | 3.0 g | C(C)C(COC=1C=CC=2N(N1)C=CN2)(CS(N)(=O)=O)CC | C13H20N4O3S
solvent | methanol | 70 ml | CO | CH4O
product | 6-[(2,2-diethyl-3-sulfamoylpropyl)oxy]imidazo[1,2-b]pyridazine hydrochloride | 3.1 g | Cl.C(C)C(COC=1C=CC=2N(N1)C=CN2)(CS(N)(=O)=O)CC | InChI=1S/C13H20N4O3S.ClH/c1-3-13(4-2,10-21(14,18)19)9-20-12-6-5-11-15-7-8-17(11)16-12;/h5-8H,3-4,9-10H2,1-2H3,(H2,14,18,19);1H
